US07968552B2
In an atmosphere of nitrogen, a THF solution of methyl 4-[(4′-chloro-2′-methylbiphenyl-3-yl)methoxy]-2-fluorobenzoate was dropwise added to a THF suspension of lithium aluminum hydride under cooling on an ice-methanol bath, followed by stirring at room temperature for 1 hour to obtain 4-[(4′-chloro-2′-methylbiphenyl-3-yl)methoxy]-2-fluorobenzyl alcohol. By adding manganese dioxide to a THF solution of the resulting 4-[(4′-chloro-2′-methylbiphenyl-3-yl)methoxy]-2-fluorobenzyl alcohol and stirring at 40° C. for 17 hours, 4-[(4′-chloro-2′-methylbiphenyl-3-yl)methoxy]-2-fluorobenzaldehyde was obtained.

reactant | 4-[(4′-chloro-2′-methylbiphenyl-3-yl)methoxy]-2-fluorobenzyl alcohol | ClC1=CC(=C(C=C1)C1=CC(=CC=C1)COC1=CC(=C(CO)C=C1)F)C | C21H18ClFO2
catalyst | manganese dioxide | [O-2].[O-2].[Mn+4]
solvent | THF | C1CCOC1 | C4H8O
product | 4-[(4′-chloro-2′-methylbiphenyl-3-yl)methoxy]-2-fluorobenzaldehyde | ClC1=CC(=C(C=C1)C1=CC(=CC=C1)COC1=CC(=C(C=O)C=C1)F)C | C21H16ClFO2
